US06759420B1
c) 2-(3-Bromo-phenyl)-3-(4-cyano-phenyl)-propionic acid
To a solution of n-butyl lithium (95 ml, 15% solution in hexane, 147 mmol) and 2,2,6,6-tetramethylpiperidine (24.9 ml, 147 mmol) in tetrahydrofurane (220 ml) was added a solution of (3-bromo-phenyl)-acetic acid (15.05 g, 70 mmol) in tetrahydrofuran (80 ml) at −78° C. The reaction mixture was stirred for 60 minutes at that temperature. Then 4-bromomethyl-benzonitrile (13.72 g, 70 mmol) in tetrahydrofuran (160 ml) was added. The reaction mixture was stirred for 2 hours at −78° C., then warmed up to room temperature and quenched with ammonium chloride solution (240 ml), 3 N hydrochloric acid (50 ml), and ethyl acetate (300 ml). The organic layer was washed with ammonium chloride solution and brine, dried, and evaporated in vacuo. The residue was solved in ethyl acetate and stirred with methyl-tert-butylether. The precipitate was sucked off and dried in vacuo to give 19.0 g of the desired product (82% yield).

reactant | n-butyl lithium | 147 mmol, 95 ml | C(CCC)[Li]
reactant | 2,2,6,6-tetramethylpiperidine | 147 mmol, 24.9 ml | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | (3-bromo-phenyl)-acetic acid | 70 mmol, 15.05 g | BrC=1C=C(C=CC1)CC(=O)O | C8H7BrO2
reactant | 4-bromomethyl-benzonitrile | 70 mmol, 13.72 g | BrCC1=CC=C(C#N)C=C1 | C8H6BrN
solvent | tetrahydrofurane | 220 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 160 ml | O1CCCC1 | C4H8O
product | 2-(3-Bromo-phenyl)-3-(4-cyano-phenyl)-propionic acid | 19.0 g, 82% yield | BrC=1C=C(C=CC1)C(C(=O)O)CC1=CC=C(C=C1)C#N | C16H12BrNO2
